US07875640B2
3-butyl-4,5-dimethyl-1,3-thiazol-2(3H)-imine hydroiodide
A mixture of 2-amino-4,5-dimethylthiazole (2.56 g, 20 mmol) and iodobutane (2.6 mL, 22 mmol) in toluene (20 mL) was refluxed at 80° C. for 48 hours. The mixture was cooled to room temperature and the precipitated solid was filtered, washed with toluene and dried under reduced pressure to provide 2.7 g of crude product as the hydroiodide salt; MS (ESI+) m/z 185 (M+H)+.

reactant | 2-amino-4,5-dimethylthiazole | 20 mmol, 2.56 g | NC=1SC(=C(N1)C)C | C5H8N2S
reactant | iodobutane | 22 mmol, 2.6 mL | ICCCC | C4H9I
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-butyl-4,5-dimethyl-1,3-thiazol-2(3H)-imine hydroiodide | 2.7 g | I.C(CCC)N1C(SC(=C1C)C)=N | InChI=1S/C9H16N2S.HI/c1-4-5-6-11-7(2)8(3)12-9(11)10;/h10H,4-6H2,1-3H3;1H
